US07811595B2
Preparation of [(4′-chloro-3-methoxy-biphenyl-4-carbonyl)-amino]-acetic acid ethyl ester (10):
To a solution of 4′-chloro-3-methoxy-biphenyl-4-carboxylic acid, 9, (0.325 g, 1.24 mmol) in CH2Cl2 (5 mL) and DMF (1.5 mL) at room temperature under N2 is added glycine ethyl ester hydrochloride (0.19 g, 1.36 mmol), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide (EDCI) (0.261 g, 1.36 mmol), 1-hydroxybenzotriazole (HOBt) (0.033 g, 0.248 mmol) and diisopropylethylamine (DIPEA) (0.432 ml, 2.28 mmol). The resulting suspension is stirred for 16 hours after which the reaction mixture is diluted with EtOAc and washed with 1M HCl, 1M NaOH and saturated aqueous NaCl. The organic phase is separated, dried (MgSO4), filtered and concentrated under reduced pressure. The crude material is purified over silica (hexanes:EtOAc 1:1) to afford 0.364 g (85% yield) of the desired product as a colorless solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.51 (1H, br s), 8.28 (1H, d, J=8.1 Hz), 7.53-7.57 (2H, m), 7.42-7.46 (2H, m), 7.27 (1H, dd, J=8.1, 1.6 Hz), 7.14 (1H, d, J=1.5 Hz), 4.29 (2H, d, J=4.8 Hz), 4.8 (2H, q, J=7.1 Hz), 4.09 (3H, s), 1.34 (3H, t, J=7.2 Hz). HPLC-MS: m/z 348 [M+H]+.

reactant | 4′-chloro-3-methoxy-biphenyl-4-carboxylic acid | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)O)OC | C14H11ClO3
reactant | glycine ethyl ester hydrochloride | 1.36 mmol, 0.19 g | Cl.C(C)OC(CN)=O
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide | 1.36 mmol, 0.261 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.248 mmol, 0.033 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 2.28 mmol, 0.432 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | [(4′-chloro-3-methoxy-biphenyl-4-carbonyl)-amino]-acetic acid ethyl ester | 0.364 g, 85% yield | C(C)OC(CNC(=O)C1=C(C=C(C=C1)C1=CC=C(C=C1)Cl)OC)=O | C18H18ClNO4
